US08076482B2
Preparation of intermediate 2-(4-chloro-5-fluoro-2-formyl-phenoxy)-2-methyl-propionic acid methyl ester
A mixture of 5-chloro-4-fluoro-2-hydroxy-benzaldehyde (0.8 g, 4.6 mmol), 2-bromo-2-methyl-propionic acid methyl ester (1.6 g, 9.2 mmol) and K2CO3 (2 g, 14.5 mmol) in DMF (40 mL) was placed in a sealed tube and heated by irradiation in microwave reactor at 140° C. for 12 min. After cooled to room temperature, the mixture was partitioned between EtOAc and water. The organic layer was separated, washed with water, dried over anhydrous Na2SO4 and concentrated to give the thitle compound as a brown solid (1.08 g).

reactant | 5-chloro-4-fluoro-2-hydroxy-benzaldehyde | 4.6 mmol, 0.8 g | ClC=1C(=CC(=C(C=O)C1)O)F | C7H4ClFO2
reactant | 2-bromo-2-methyl-propionic acid methyl ester | 9.2 mmol, 1.6 g | COC(C(C)(C)Br)=O | C5H9BrO2
reactant | K2CO3 | 14.5 mmol, 2 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 2-(4-chloro-5-fluoro-2-formyl-phenoxy)-2-methyl-propionic acid methyl ester | 1.08 g | COC(C(C)(C)OC1=C(C=C(C(=C1)F)Cl)C=O)=O | C12H12ClFO4
